US04255342
A mixture of 21 g. phenol, 13 g. potassium hydroxide and 270 g. o-chlorotoluene was converted to a water-free slurry of potassium phenoxide by azeotropic distillation of all the water formed. After cooling back to 100° C., 28.8 g. of 1-chloro-8-nitroanthraquinone was charged and the whole heated and stirred at 130° C. for 6 hours. The product was isolated by steam distillation, filtration, washing and drying. A 37.7 g. yield (96.2% of theory) of a product identical to authentic 1,8-diphenoxyanthraquinone in a thin layer chromatogram and free of starting material was obtained.

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | potassium hydroxide | [OH-].[K+]
reactant | 1-chloro-8-nitroanthraquinone | ClC1=CC=CC=2C(C3=CC=CC(=C3C(C12)=O)[N+](=O)[O-])=O | C14H6ClNO4
product | 1,8-diphenoxyanthraquinone | O(C1=CC=CC=C1)C1=CC=CC=2C(C3=CC=CC(=C3C(C12)=O)OC1=CC=CC=C1)=O | C26H16O4
